US08357694B2
(S)-6-(4-fluorophenyl)-N-(4-(2-(piperidin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine
This was synthesized by using (S)-4-(6-(4-fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate, piperidine and triethylamine as described in general procedure 2 to afford the desired product. M.p.=185-188° C. 1H NMR (CDCl3) 400 MHz δ 12.19 (brs, 1H), 10.89 (brs, 1H), 8.36 (brs, 1H), 8.01 (brs, 1H), 7.69 (d, J=6.6 Hz, 2H), 7.58-7.59 (m, 2H), 7.35 (d, J=6.2 Hz, 2H), 7.26 (d, J=2.7 Hz, 1H, 7.11-7.12 (m, 1H), 7.01-7.11 (m, 3H), 4.14 (s, 1H), 3.63 (d, J=10.5 Hz), 3.31-3.33 (m, 3H), 3.12-3.17 (m, 3H), 2.74 (d, J=11.2 Hz, 2H), 2.36 (d, J=12.1 Hz, 2H), 2.09 (s, 1H), 1.92-1.95 (m, 3H), 1.43-1.46 (m, 1H). LCMS m/e 479 [M+H].

reactant | (S)-4-(6-(4-fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C([C@@H](CC2C=N1)C1=CC=C(C=C1)F)C=CC=C3 | C27H24FN3O3S
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (S)-6-(4-fluorophenyl)-N-(4-(2-(piperidin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine | FC1=CC=C(C=C1)[C@@H]1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC=C(C=C2)CCN2CCCCC2 | C31H31FN4
